US05256697
A method of synthesizing pyruvyl-alanine or pyruvyl-glycine according to the invention comprises the steps of reacting sodium pyruvate with oxalyl chloride to yield pyruvyl chloride, then reacting pyruvyl chloride with a suspension of alanine trimethylsilyl ester hydrochloride to yield a pyruvyl-alanine trimethylsilyl ester and then subjecting the pyruvyl-alanine trimethylsilyl ester to hydrolysis to yield pyruvyl-alanine. The pyruvyl-alanine synthesized via the method set forth above serves as a pyruvyl-amino acid pyruvate precursor.

reactant | pyruvyl chloride | C(C(=O)C)(=O)Cl | C3H3ClO2
reactant | alanine trimethylsilyl ester hydrochloride | Cl.C[Si](C)(C)OC([C@@H](N)C)=O
product | pyruvyl-alanine trimethylsilyl ester | C[Si](C)(C)OC([C@@H](NC(C(=O)C)=O)C)=O | C9H17NO4Si
